US07994326B2
Synthesis of tert-butyl 4-chlorobenzyl(2-oxoethyl)carbamate (IV-1)
To a suspension of Dess-Martin periodinane (0.51 g, 0.0012 mol) in anhydrous CH2Cl2 (10 mL) was added a solution of tert-butyl 4-chlorobenzyl(2-hydroxyethyl)carbamate (II-2) (0.29 g, 0.001 mol) in anhydrous CH2Cl2 (5 mL). Then the reaction mixture was stirred at room temperature for 21 h under N2 atmosphere. 1 M of Na2S2O3 (10 mL) was added to the reaction mixture, and after stirring 10 min, the reaction mixture was extracted with CH2Cl2 (10 mL×3). The combined organic layers were washed with 5% aqueous NaHCO3 (20 mL), and brine (20 mL). The organic layer was dried over Na2SO4, and evaporated in vacuo. The residue was then purified by column chromatography (silica gel, Hexanes:EtoAc=8:2) to afford colorless oil (IV-1, 0.20 g, 72%).

reactant | Dess-Martin periodinane | 0.0012 mol, 0.51 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | tert-butyl 4-chlorobenzyl(2-hydroxyethyl)carbamate | 0.001 mol, 0.29 g | ClC1=CC=C(CN(C(OC(C)(C)C)=O)CCO)C=C1 | C14H20ClNO3
reactant | Na2S2O3 | 1 M, 10 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-chlorobenzyl(2-oxoethyl)carbamate | ClC1=CC=C(CN(C(OC(C)(C)C)=O)CC=O)C=C1 | C14H18ClNO3
